US07781586B2
2-Phenyl-8-vinyl-quinoline-4-ol
A suspension of 500 mg (1.67 mmol) 8-bromo-2-phenyl-quinoline-4-ol (commercially available from Ubichem Research Ltd, Budapest, Hungary), 97 mg (0.09 mmol) Pd(PPh3)4, 71 mg (1.67 mmol) lithium chloride and 528 mg (1.67 mmol) tributylvinyl stannane in 20 ml dioxane was heated at 90° C. for 16 h. The resulting yellow suspension was filtered and the filtrate evaporated to dryness. The residue was suspended in ethyl acetate, filtered and the filtrate extracted with water. The organic layer was evaporated to dryness and the isolated crude product purified by silica gel chromatography (ethyl acetate) to yield 178 mg (43%) of the title compound as yellowish crystals. 1H-NMR (300 MHz, CDCl3): 5.59 (d, J=11.1 Hz, 1H); 5.75 (d, J=17.4 Hz, 1H); 6.42 (s, 1H); 7.04 (dd, J=17.4, 11.1 Hz, 1H); 7.23 (t, J=8.1 Hz, 1H); 7.40-7.60 (m, 6H); 8.21 (d, J=8.1 Hz, 1H); 8.70 (br, 1H).

reactant | 8-bromo-2-phenyl-quinoline-4-ol | 1.67 mmol, 500 mg | BrC=1C=CC=C2C(=CC(=NC12)C1=CC=CC=C1)O | C15H10BrNO
reactant | lithium chloride | 1.67 mmol, 71 mg | [Cl-].[Li+]
reactant | tributylvinyl stannane | 1.67 mmol, 528 mg | C(CCC)C(=C(CCCC)CCCC)[SnH3]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.09 mmol, 97 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Phenyl-8-vinyl-quinoline-4-ol | 178 mg, 43% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C(=C1)O)C=C | C17H13NO
